### PR TITLE
Double category of profunctors

### PR DESCRIPTION
**Pull request by nmvdw**
This PR contains:
- Some results on coends
- Development of profunctors
- The univalent pseudo double category of strict categories, functors and profunctors

It is also forms the first steps towards the Verity double bicategory of univalent categories, functors, and profunctors.

### CODE REVIEW

File: UniMath/CategoryTheory/TwoSidedDisplayedCats/Examples/ProfunctorTwosidedDispCat.v [hunk 1]
```diff
@@ -0,0 +1,325 @@
+(**********************************************************************************
+
+ The 2-sided displayed category of profunctors
+
+ We define a 2-sided displayed category over the category of strict categories as
+ follows:
+ - The displayed objects over `C` and `D` are profunctors from `C` to `D`.
+ - The displayed morphisms are profunctor squares.
+ In fact, this 2-sided displayed category is univalent. The reason for that, is
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/TwoSidedDisplayedCats/Examples/ProfunctorTwosidedDispCat.v:9]:
```suggestion
 In fact, this 2-sided displayed category is univalent. The reason for that is
```

File: UniMath/CategoryTheory/TwoSidedDisplayedCats/Examples/ProfunctorTwosidedDispCat.v [hunk 2]
```diff
@@ -0,0 +1,325 @@
...
+ because profunctors are functors into the category of sets, which is univalent.
+ For that reason, the category of profunctors from `C` to `D` is univalent
+ irregardless of whether `C` and `D` are univalent. This is the first building
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/TwoSidedDisplayedCats/Examples/ProfunctorTwosidedDispCat.v:12]:
```suggestion
 regardless of whether `C` and `D` are univalent. This is the first building
```

File: UniMath/CategoryTheory/limits/Coends.v [hunk 3]
```diff
@@ -0,0 +1,416 @@
+(**************************************************************
+
+ Coends
+
+ Coends are a special kind of colimit, namely a colimit over a
+ bifunctor that is contravariant in its first argument and
+ covariant in its second argument. In this file, we define
+ the notion of coends, and show that ends can be constructed from
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/Coends.v:8]: "ends" or "coends"?

Comment (benediktahrens) [reply UniMath/CategoryTheory/limits/Coends.v:8]:
```suggestion
 the notion of coends, and show that coends can be constructed from
```

File: UniMath/CategoryTheory/limits/graphs/Coproducts.v [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+    Section CoproductsFromColim.
+      Context (f : I → C).
+
+      Let D : diagram type_graph C := coproduct_diagram f.
+      Let L : ColimCocone D := HC D.
+
+      Let x : C := colim L.
+      Let fs : ∏ (i : I), f i --> x := λ i, colimIn L i.
+
+      Proposition isCoprofuct_from_colims_unique
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/graphs/Coproducts.v:49]: What is a "Coprofuct"?

File: UniMath/CategoryTheory/limits/graphs/Coproducts.v [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+          intro.
+          use impred ; intro.
+          apply homset_property.
+        }
+        use colimArrowUnique' ; cbn.
+        intro i.
+        exact (pr2 φ₁ i @ !(pr2 φ₂ i)).
+      Qed.
+
+      Definition isCoprofuct_from_colims
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/graphs/Coproducts.v:67]: What is a "Coprofuct"? Is it "Coproduct"?

**Review by benediktahrens — APPROVED** [review]

File: UniMath/CategoryTheory/limits/graphs/Coproducts.v (hunk 4 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/limits/graphs/Coproducts.v:49]: Can I fix the 'Coprofuct' typos in the next PR (which might be there today or tomorrow)?
